Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
lisinopril
 
Attending: ___.
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with PMHx bovine AV transplant ___ years ago, no known 
active CAD, no known CHF, no hx VTE, presents with severe DOE 
since ___.  
He reports that on ___ he had what felt like an episode of 
indigestion. He reports aching abdominal pain that lasted from 
9pm until 6 or 7am. Pain was more mid abdomen and not located in 
the epigastrium or chest. Since then he has felt severely 
dyspneic, although on retrospect his wife has mentioned that she 
thought he has appeared progressively more short of breath over 
the past few weeks.  
He feels short of breath at rest, and breathing is not worse 
with exertion. Does endorse orthopnea. No fever or cough. No 
chest pain or palpitations. History of asthma as a child and no 
known history of COPD.  

POCUS reveals a large (10cm) R renal cyst with compression of R 
iliac vessels, possibly IVC as well. Concern is for either 
mechanical venous compression or unvisualized clot (ie 
___, with embolized PEs causing dyspnea  
 
In the ED, initial vitals were: 98.3 58 126/78 16 98% RA  
- Labs were significant for troponin < 0.01, normal BNP, normal 
Hg of 14.2, mild hyponatremia to 131, and D-dimer of ___  
- Imaging revealed: CTA Chest negative for PE, aortic 
abnormality, pulmonary parenchymal abnormality, or IVC or other 
venous thrombosis  
- The patient was given 2L NS  
Vitals prior to transfer were: 66 120/43 16 96% RA  
Upon arrival to the floor, initial vitals were 98.6 123/96 66 36 
(28 on my exam) 97% RA.  
REVIEW OF SYSTEMS:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies chest pain 
or tightness, palpitations. Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denies arthralgias or myalgias.  

 
Past Medical History:
Coronary artery disease s/p CABG
Aortic valve stenosis s/p aortic valve replacement
Hypercholesterolemia 
Prostate cancer s/p prostatectomy
Hypertension
Colonic adenoma 
s/p bilateral knee replacement
Lumbago 
Spinal stenosis of lumbar region 
Cataract, left eye 
Pseudophakia of right eye 
S/P laminectomy 
Midline low back pain without sciatica 
Diverticulosis 
 
Social History:
___
Family History:
Father with scarlet fever
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
Vitals: 98.6 123/96 66 36 (28 on my exam) 97% RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
Neck: Supple, JVP 3cm above the clavicle at 45 degrees  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Tachypneic, clear to auscultation bilaterally, no 
wheezes, rales, rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, no clubbing, cyanosis or edema  
Neuro: CNII-XII grossly intact  

DISCHARGE PHYSICAL EXAM:
==========================
Vitals: T:99.0 HR:61 BP:160/66 (SBP 123-160)RR: 20 (20 on my 
exam) 97% RA  
Ambulatory: O2: 95-97% RA HR: 60s-70s
General: Alert, oriented x3, no acute distress, speaking in full 
sentences  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
Neck: Supple, JVP 2 cm above the clavicle at 45 degrees  
CV: Regular rate and rhythm, normal S1 + S2, ___ systolic 
ejection murmur LSB
Lungs: Tachypneic, clear to auscultation bilaterally, no 
wheezes, rales; occasional rhonchi at left base
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, no edema  
Neuro: CNII-XII grossly intact. ___ strength in all major muscle 
groups 

 
Pertinent Results:
ADMISSION LABS:
=====================
___ 12:50PM BLOOD WBC-9.3 RBC-4.73 Hgb-14.2 Hct-41.0 MCV-87 
MCH-30.0 MCHC-34.6 RDW-13.2 RDWSD-41.2 Plt ___
___ 12:50PM BLOOD Neuts-79.2* Lymphs-10.2* Monos-9.6 
Eos-0.4* Baso-0.2 Im ___ AbsNeut-7.32* AbsLymp-0.94* 
AbsMono-0.89* AbsEos-0.04 AbsBaso-0.02
___ 05:30AM BLOOD ___ PTT-30.0 ___
___ 12:50PM BLOOD Glucose-101* UreaN-11 Creat-0.9 Na-131* 
K-3.2* Cl-93* HCO3-23 AnGap-18
___ 12:50PM BLOOD cTropnT-<0.01 proBNP-649
___ 05:30AM BLOOD cTropnT-<0.01
___ 01:07PM BLOOD ___

DISCHARGE LABS:
====================
___ 05:30AM BLOOD WBC-7.3 RBC-4.48* Hgb-13.5* Hct-39.3* 
MCV-88 MCH-30.1 MCHC-34.4 RDW-13.1 RDWSD-42.1 Plt ___
___ 05:30AM BLOOD Glucose-126* UreaN-8 Creat-0.9 Na-134 
K-3.6 Cl-95* HCO3-29 AnGap-14

IMAGING:
=========
CTA ___:
FINDINGS:  
  
The aorta is unremarkable besides postoperative changes of 
ascending aortic repair and aortic valve replacement.  There is 
no dissection or aneurysm. Great vessels are unremarkable 
besides atherosclerotic calcifications.  The pulmonary arteries 
are well opacified to the subsegmental level without filling 
defect to suggest pulmonary embolism. Pulmonary arteries are 
normal in caliber. 
  
A 4 mm solid pulmonary nodule is noted within the right upper 
lobe (03:49).  There is otherwise no evidence of pulmonary 
parenchymal abnormality. There is no pleural effusion or 
pneumothorax. The airways are patent to the subsegmental level. 
  
Extensive coronary arterial calcifications are noted as is an 
aortic valve repair.  The heart is otherwise unremarkable.  
There is no pericardial effusion.  There is no supraclavicular, 
axillary, mediastinal, or hilar lymphadenopathy by CT size 
criteria. Included portion of the thyroid is unremarkable. 
  
No lytic or blastic osseous lesion suspicious for malignancy is 
identified. There is no fracture.  Mild multilevel degenerative 
changes include partial fusion of T9-T10. 
  
ABDOMEN: 
  
HEPATOBILIARY: The liver demonstrates homogenous attenuation 
throughout.  
There is no evidence of focal lesions. There is no evidence of 
intra or 
extrahepatic biliary dilatation.  The gallbladder is notable for 

nonobstructing calcified stones at the neck (2b:138). 
  
PANCREAS: The pancreas has normal attenuation throughout, 
without evidence of focal lesions or pancreatic ductal 
dilatation. There is no peripancreatic stranding. 
  
SPLEEN: The spleen shows normal size and attenuation throughout, 
without 
evidence of focal lesions. 
  
ADRENALS:  The right and left adrenal glands are normal in size 
and shape. 
  
URINARY: The kidneys are of normal and symmetric size with 
normal nephrogram.  A 2.9 x 1.6 cm simple cyst is seen within 
the upper pole of the left kidney.  A 10.6 x 10.1 cm simple cyst 
arises from the lower pole of the right kidney.  Other sub cm 
renal hypodensities are noted, too small to characterize but 
likely cysts.  In addition, there is a 1.2 cm exophytic 
low-density lesion not meeting criteria for simple cyst off the 
upper pole the right kidney (2b:37). There is no hydronephrosis. 
There is no perinephric abnormality. 
  
GASTROINTESTINAL: The stomach is unremarkable.  Small bowel 
loops demonstrate normal caliber, wall thickness, and 
enhancement throughout.  Extensive diverticulosis is noted 
without evidence of diverticulitis.  The appendix is normal. 
There is no free intraperitoneal fluid or free air. 
  
PELVIS: The urinary bladder and distal ureters are unremarkable. 
 There is no free fluid in the pelvis. 
  
REPRODUCTIVE ORGANS: Patient is status post prostatectomy with 
numerous 
surgical clips in the prostate bed. 
  
LYMPH NODES: There is no retroperitoneal or mesenteric 
lymphadenopathy.  There is no pelvic or inguinal 
lymphadenopathy. 
  
VASCULAR: There is no abdominal aortic aneurysm.  Mild 
atherosclerotic disease is noted. 
  
BONES AND SOFT TISSUES: There is no evidence of worrisome 
osseous lesions or acute fracture.  Moderate multilevel 
degenerative changes lumbar spine 
including mild retrolisthesis of L2 on L3 and grade 1 
anterolisthesis of L3 on L4.  Severe multilevel facet 
arthropathy is noted within the lumbar spine.  Postoperative 
changes of L4 and L5 laminectomies are noted.  There is mild 
levoscoliosis centered at L3.  The abdominal and pelvic wall is 
within normal limits. 
  
IMPRESSION: 
  
  
1. No evidence of aortic abnormality or pulmonary embolism. 
2. No evidence of filling defect within the IVC or iliac veins 
to suggest 
venous thrombosis. 
3. No significant pulmonary parenchymal abnormality. 
4. 4 mm right upper lobe pulmonary nodule for which 12 month 
followup chest CT 
is recommended. 
5. Diverticulosis. 
6. Relatively hyperdense 1.2 cm exophytic lesion off the upper 
pole the right 
kidney 
  
RECOMMENDATION(S):  Nonurgent renal ultrasound suggested to 
further evaluate. 
  
NOTIFICATION:  Addition to wet read was discussed by Dr. ___ 
with Dr. 
___ at 20:35 on ___. 

ECHO ___:
The left atrium is mildly dilated. Left ventricular wall 
thickness, cavity size and regional/global systolic function are 
normal (LVEF >55%). Tissue Doppler imaging suggests an increased 
left ventricular filling pressure (PCWP>18mmHg). The right 
ventricular cavity is dilated with borderline normal systolic 
function. A bioprosthetic aortic valve prosthesis is present. 
The aortic valve prosthesis appears well seated, with normal 
leaflet/disc motion and transvalvular gradients. Trace aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. There is no mitral valve prolapse. Trivial mitral 
regurgitation is seen. There is mild pulmonary artery systolic 
hypertension. There is no pericardial effusion. 

IMPRESSION: Preserved left ventricular systolic function with 
borderline increased filling pressure. Mildly dilated right 
ventricle with mild pulmonary artery systolic hypertension. Well 
seated bioprosthetic aortic valve with normal gradients and 
trace aortic regurgitation.  
  

 
Brief Hospital Course:
 ___ yo M with PMHx CAD (s/p CABG), aortic stenosis (s/p bovine 
AVR), no known CHF, no hx VTE, who presents with ___ days of 
dyspnea at rest and exertion
 
# Dyspnea: 
Patient presented to ___ ED ___ with ___ days of dyspnea 
of unclear etiology after referral from his primary care 
provider. Patient received CTA on presentation which showed no 
evidence of pneumonia or pulmonary embolism. Patient did not 
have any chest pain concerning for ACS, and had no ischemic 
changes on EKG and negative troponin x2. It was felt his 
symptoms were less likely CHF exacerbation given his normal BNP 
and no clinical signs of volume overload. Because of his history 
of AVR, patient received a TTE which showed normal well-seated 
bio-prosthetic valve with normal ejection fraction with trace 
aortic regurgitation unchanged from outside records. 
Additionally mild pulmonary hypertension was noted. 

Patient did well during admission with reduced tachypnea. He 
received nebulizer treatments x 2 with mild improvement. He 
maintained oxygen saturations of >94% on RA at rest and while 
ambulating. Given that patient had smoking history, we 
considered whether this could represent COPD although he did not 
have any wheezing or significant rhonchi on exam. However, given 
mild pulmonary hypertension on echocardiogram and some 
improvement with duo-nebulizers this could be possible etiology. 
Patient was discharged with albuterol inhaler with plan for 
pulmonary follow up with PFT testing.

Additionally, sleep apnea screening may be warranted given 
patient endorsed snoring while sleeping and worsening symptoms 
with sleep at times.

Should all of the above work up be unrevealing myasthenia and 
antibody testing could be pursued.  

# Abdominal pain/cramping: 
Patient noted acute GI illness prior to this admission. During 
hospitalization he was noted to have a normal appetite with no 
further complaints. 

# Hematuria: 
Patient noted to have mild hematuria on UA without evidence of 
infection. Patient should likely have repeat UA as outpatient 
and if persistent consider referral to urology.   

CHRONIC:
# CAD s/p CABG:  
- continued aspirin, atorvastatin  

# HTN:  
- continued atenolol, HCTZ, losartan  

========================
# TRANSITIONAL ISSUES:
========================
- Patient discharged with albuterol inhaler this hospitalization
- Patient does not have clinical features entirely consistent 
with COPD but did mildly improve with duo-nebulizers. 
-Outpatient pulmonary follow up being set up (patient will be 
called with appointment) with likely need for spirometry 
-consider outpatient sleep study testing given mild pulmonary 
hypertension on echo, snoring, patient's body habitus, and 
worsening of symptoms at time with sleep
- Patient had 4 mm right upper lobe pulmonary nodule observed on 
CT. Should get follow up CT in 12 months
-Patient had relatively hyperdense 1.2 cm exophytic lesion off 
the upper pole the right kidney noted on CTA. Would recommend 
non-urgent evaluation by US.
-Patient also had 10.6 x 10.1 cm simple cyst arises from the 
lower pole of the right kidney. Other sub cm renal hypodensities 
are noted, too small to characterize but likely cysts. 
- Hematuria: Patient had blood in urine observed on urinalysis. 
He should get repeat UA with PCP and if persistent consideration 
of urology referral 
-consider sending acetylcholine receptor antibody for work up of 
myasthenia if all of the above work up is negative for dyspnea

# CODE STATUS: DNR/DNI (confirmed) 
# CONTACT: ___ (wife, HCP) ___

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Atenolol 25 mg PO DAILY 
3. Atorvastatin 40 mg PO DAILY 
4. Hydrochlorothiazide 12.5 mg PO DAILY 
5. Losartan Potassium 100 mg PO DAILY 
6. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Atenolol 25 mg PO DAILY 
3. Atorvastatin 40 mg PO DAILY 
4. Hydrochlorothiazide 12.5 mg PO DAILY 
5. Losartan Potassium 100 mg PO DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. Albuterol Inhaler ___ PUFF IH Q6H:PRN shortness of breath 
RX *albuterol sulfate [ProAir HFA] 90 mcg ___ puffs inhaled 
every 6 hours Disp #*1 Inhaler Refills:*1

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Dyspnea
Secondary: Aortic valve replacement, Coronary Artery Disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you here at the ___ 
___. You came to the Emergency Department 
with several days of shortness of breath. You received a CT scan 
of your lungs and abdomen. The CT scan did not show a clot in 
your blood vessels (pulmonary embolism) or pneumonia. You had 
stable EKGs and heart enzymes, and we did not think you were 
having a heart attack. Your clinical exam and heart enzymes did 
not show signs of heart failure and we continued to monitor you. 
You had good oxygenation both at rest and while walking. Due to 
your history of aortic valve replacement we performed an 
ultrasound (echocardiogram) of your heart which showed normal 
heart function with normal function of your replaced valve. 

Because your breathing improved with inhalers we discharged you 
home with an albuterol inhaler. We are in the process of setting 
up a pulmonary or lung appointment for you and the office will 
call you with this appointment in the next week. 

We wish you the best,

Your ___ care team
 
Followup Instructions:
___